US07842809B2
Preparation of 6-tert-butyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile
In analogy to the procedure described for Example 1c reaction of 41 g ammonium acetate, 7 ml methyl cyanoacetate, 8.2 ml 3,3-dimethylbutan-2-one, and 10 g 4-nitrobenzaldehyde yielded 4.71 g product.

reactant | ammonium acetate | 41 g | C(C)(=O)[O-].[NH4+]
reactant | methyl cyanoacetate | 7 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | 3,3-dimethylbutan-2-one | 8.2 ml | CC(C(C)=O)(C)C | C6H12O
reactant | 4-nitrobenzaldehyde | 10 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 6-tert-butyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 4.71 g | C(C)(C)(C)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O3
